US06313122B1
Preparation of N2-(4-tert-Butylbenzoyl)-N1-(3-hydroxymethylbenzoyl)-1,2-benzenediamine
Using the procedure described in Example 57, N2-(4-tert-butylbenzoyl)-N2-(3-formylbenzoyl)-1,2-benzenediamine (230 mg, 0.57 mmol) was reacted in ethanol to yield 227 mg (99%) of the title compound as an off-white amorphous solid.

reactant | N2-(4-tert-butylbenzoyl)-N2-(3-formylbenzoyl)-1,2-benzenediamine | 0.57 mmol, 230 mg | C(C)(C)(C)C1=CC=C(C(=O)N(C=2C(=CC=CC2)N)C(C2=CC(=CC=C2)C=O)=O)C=C1 | C25H24N2O3
reactant | ethanol | C(C)O | C2H6O
product | N2-(4-tert-Butylbenzoyl)-N1-(3-hydroxymethylbenzoyl)-1,2-benzenediamine | 227 mg, 99% | C(C)(C)(C)C1=CC=C(C(=O)NC=2C(=CC=CC2)NC(C2=CC(=CC=C2)CO)=O)C=C1 | C25H26N2O3
